US07718693B2
1) {[2-Methyl-3-(trifluoromethyl)phenyl]methyl}amine hydrochloride (Amine Used to Prepare Example 62)
Borane tetrahydrofuran (1M, 39.4 ml, 39.4 mmol) was added to a solution of 2-methyl-3-trifluoromethyl benzamide (2 g, 9.85 mmol) in tetrahydrofuran (75 ml) and stirred at 70° C. for 5 hrs. LCMS showed incomplete reaction so heating at 70° C. under argon was continued overnight and then for a further 5 hrs following this. The reaction mixture was treated with 2N aqueous hydrogen chloride and stirred at 100° C. for 4 hrs and then left to cool over the weekend. The mixture was reduced to dryness undervacuum and then partitioned between dichloromethane and 2N aqueous sodium hydroxide. The organic layer was separated using a hydrophobic frit and reduced to give a residue which was purified by flash silica column chromatography (eluting with 0-5% 2N ammonia/methanol in dichloromethane). The solvent was evaporated and the residue taken up in diethyl ether and treated with 1M ethereal hydrogen chloride. The solid that precipitated was collected by filtration and this was then triturated with dichloromethane and after filtration 2-Methyl-3-(trifluoromethyl)phenyl]methyl}amine hydrochloride (1.4 g) was obtained as a white solid.

reactant | Borane tetrahydrofuran | 39.4 mmol, 1M, 39.4 ml | O1CCCC1.B
reactant | 2-methyl-3-trifluoromethyl benzamide | 9.85 mmol, 2 g | CC1=C(C(=O)N)C=CC=C1C(F)(F)F | C9H8F3NO
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | {[2-Methyl-3-(trifluoromethyl)phenyl]methyl}amine hydrochloride | Cl.CC1=C(C=CC=C1C(F)(F)F)CN | InChI=1S/C9H10F3N.ClH/c1-6-7(5-13)3-2-4-8(6)9(10,11)12;/h2-4H,5,13H2,1H3;1H
